US07199239B2
Intermediate 4: Methyl {4-[(butyl{6-[4-(trifluoromethyl)phenyl]pyridin-2-yl}amino)methyl]-2-methylphenoxy}acetate
Palladium (II) acetate (5.4 mg, 0.024 mmol) and (S)-2,2′-bis(diphenylphosphino)-1,1′-binapthyl (22 mg, 0.036 mmol) in anhydrous toluene (1.2 mL) were stirred together at 70° C. in a sealed reactivial for 30 minutes. The vial was then allowed to attain room temperature before the methyl {4-[(butylamino)methyl]-2-methylphenoxy}acetate (96 mg, 0.36 mmol), 2-bromo-6-[4-(trifluoromethyl)phenyl]pyridine (90.6 mg, 0.3 mmol) and caesium carbonate (137 mg, 0.42 mmol) were added. The vial was then sealed and heated at 80° C. for 18 h. The reaction mixture was allowed to cool to room temperature, the reaction mixture filtered and the solvent removed in vacuo. Purification by SPE (Silica, 10 g) eluting 99:1–50:1 cyclohexane:EtOAc afforded the title compound as a colourless oil (50 mg).

reactant | (S)-2,2′-bis(diphenylphosphino)-1,1′-binapthyl | 0.036 mmol, 22 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | methyl {4-[(butylamino)methyl]-2-methylphenoxy}acetate | 0.36 mmol, 96 mg | C(CCC)NCC1=CC(=C(OCC(=O)OC)C=C1)C | C15H23NO3
reactant | 2-bromo-6-[4-(trifluoromethyl)phenyl]pyridine | 0.3 mmol, 90.6 mg | BrC1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C12H7BrF3N
reactant | caesium carbonate | 0.42 mmol, 137 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 1.2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium (II) acetate | 0.024 mmol, 5.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl {4-[(butyl{6-[4-(trifluoromethyl)phenyl]pyridin-2-yl}amino)methyl]-2-methylphenoxy}acetate | 50 mg | C(CCC)N(C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)OC)C=C1)C | C27H29F3N2O3
